T1 ( net285 net285 0 0)  nfet  L=6.78E-6 W=8.65E-6
T2 ( net84 net285 0 0)  nfet  L=6.78E-6 W=8.65E-6
R3 ( net84 net59)  R=8.8E3
T4 (net83 net287 net287 0) nfet L=7.73E-6 W=1.28E-6
R5 ( net74 net116)  R=5.4E6
T6 ( net116 net174 0 0)  nfet  L=9.98E-6 W=1.68E-6
T7 ( net104 net174 0 0)  nfet  L=9.98E-6 W=1.68E-6
T8 ( net50 net116 net104 0)  nfet  L=9.98E-6 W=1.68E-6
R9 (net272 0) R=5.9E2
T10 (net187 vdd! vdd! 0) pfet L=0.88E-6 W=6.37E-6
R11 ( net65 net139)  R=9.4E3
T12 ( net139 net251 vdd! vdd!)  pfet  L=9.13E-6 W=3.19E-6
T13 ( net236 net251 vdd! vdd!)  pfet  L=9.13E-6 W=3.19E-6
T14 ( 0 net139 net251 vdd!)  pfet  L=9.13E-6 W=3.19E-6
T15 (net264 net195 net195 0) nfet L=5.09E-6 W=3.65E-6
R16 ( net181 net92)  R=8.2E0
T17 ( net92 net119 vdd! vdd!)  pfet  L=9.34E-6 W=3.23E-6
T18 ( net168 net119 vdd! vdd!)  pfet  L=9.34E-6 W=3.23E-6
T19 ( 0 net92 net119 vdd!)  pfet  L=9.34E-6 W=3.23E-6
R20 (net183 net280) R=4.4E6
R21 ( 0 net90)  R=5.1E6
T22 ( net90 net90 vdd! vdd!)  pfet  L=0.15E-6 W=2.65E-6
T23 ( net259 net90 vdd! vdd!)  pfet  L=0.15E-6 W=2.65E-6
R24 (net248 net199) R=1.7E2
R25 ( net283 net36)  R=4.2E3
T26 ( net36 net36 net74 vdd!)  pfet  L=6.46E-6 W=9.18E-6
T27 ( net74 net154 vdd! vdd!)  pfet  L=6.46E-6 W=9.18E-6
T28 ( net154 net154 vdd! vdd!)  pfet  L=6.46E-6 W=9.18E-6
T29 ( net143 net36 net154 vdd!)  pfet  L=6.46E-6 W=9.18E-6
R30 (net285 net331) R=3.6E1
R31 ( net128 net121)  R=7.9E3
T32 ( net121 net121 0 0)  nfet  L=7.20E-6 W=9.17E-6
T33 ( net3 net121 0 0)  nfet  L=7.20E-6 W=9.17E-6
T34 (net263 0 0 0) nfet L=5.05E-6 W=1.79E-6
T35 (net103 net201 net201 0) nfet L=8.31E-6 W=6.36E-6
T36 ( net255 net255 vdd! vdd!)  pfet  L=2.06E-6 W=9.98E-6
T37 ( net7 net255 vdd! vdd!)  pfet  L=2.06E-6 W=9.98E-6
R38 ( net7 net170)  R=7.4E2
T39 (net155 vdd! vdd! 0) pfet L=1.67E-6 W=0.82E-6
R40 (net153 vdd!) R=6.1E2
R41 (net220 0) R=9.4E1
R42 ( 0 net97)  R=3.2E1
T43 ( net97 net129 0 0)  nfet  L=8.28E-6 W=9.42E-6
T44 ( net253 net129 0 0)  nfet  L=8.28E-6 W=9.42E-6
T45 ( vdd! net97 net129 0)  nfet  L=8.28E-6 W=9.42E-6
R46 (net205 net272) R=5.2E3
R47 ( net24 net135)  R=8.4E5
T48 ( net135 net176 0 0)  nfet  L=7.36E-6 W=5.90E-6
T49 ( net296 net176 0 0)  nfet  L=7.36E-6 W=5.90E-6
T50 ( vdd! net135 net176 0)  nfet  L=7.36E-6 W=5.90E-6
T51 (net146 net188 net188 0) pfet L=9.75E-6 W=7.60E-6
R52 (net152 vdd!) R=5.1E0
T53 (net38 net190 net190 0) nfet L=4.02E-6 W=7.31E-6
R54 ( net299 net131)  R=2.0E0
T55 ( net131 net131 net120 0)  nfet  L=4.40E-6 W=2.09E-6
T56 ( net120 net52 0 0)  nfet  L=4.40E-6 W=2.09E-6
T57 ( net52 net52 0 0)  nfet  L=4.40E-6 W=2.09E-6
T58 ( net315 net131 net52 0)  nfet  L=4.40E-6 W=2.09E-6
T59 (net253 net218 net218 0) nfet L=5.46E-6 W=9.55E-6
R60 (vdd! net87) R=2.4E2
R61 ( net204 net194)  R=9.8E1
T62 ( net194 net156 0 0)  nfet  L=3.26E-6 W=8.18E-6
T63 ( net331 net156 0 0)  nfet  L=3.26E-6 W=8.18E-6
T64 ( net253 net194 net331 0)  nfet  L=3.26E-6 W=8.18E-6
R65 (net230 net146) R=1.0E2
R66 ( net316 net59)  R=9.5E6
T67 ( net59 net59 net57 0)  nfet  L=7.87E-6 W=5.25E-6
T68 ( net57 net133 0 0)  nfet  L=7.87E-6 W=5.25E-6
T69 ( net133 net133 0 0)  nfet  L=7.87E-6 W=5.25E-6
T70 ( net91 net59 net133 0)  nfet  L=7.87E-6 W=5.25E-6
T71 (net202 vdd! vdd! 0) pfet L=8.79E-6 W=9.69E-6
R72 (net192 0) R=3.9E1
R73 ( 0 net167)  R=6.2E0
T74 ( net167 net167 0 0)  nfet  L=3.10E-6 W=9.53E-6
T75 ( net213 net167 0 0)  nfet  L=3.10E-6 W=9.53E-6
R76 (net312 net236) R=7.3E1
T77 (net205 net259 net259 0) nfet L=8.78E-6 W=7.02E-6
R78 (net149 net328) R=3.9E1
T79 ( net287 net287 0 0)  nfet  L=0.37E-6 W=1.15E-6
T80 ( net299 net287 0 0)  nfet  L=0.37E-6 W=1.15E-6
R81 ( net299 net247)  R=8.9E2
R82 (net190 net132) R=6.5E4
R83 ( net287 net159)  R=0.6E6
T84 ( net159 net159 net82 vdd!)  pfet  L=2.99E-6 W=6.86E-6
T85 ( net82 net103 vdd! vdd!)  pfet  L=2.99E-6 W=6.86E-6
T86 ( net103 net103 vdd! vdd!)  pfet  L=2.99E-6 W=6.86E-6
T87 ( net42 net159 net103 vdd!)  pfet  L=2.99E-6 W=6.86E-6
R88 (0 net107) R=9.6E1
R89 ( net187 net213)  R=3.8E3
T90 ( net213 net24 0 0)  nfet  L=0.87E-6 W=2.82E-6
T91 ( net182 net24 0 0)  nfet  L=0.87E-6 W=2.82E-6
T92 ( vdd! net213 net24 0)  nfet  L=0.87E-6 W=2.82E-6
R93 (net27 net65) R=6.3E6
C94 (net99 net86) C=6.4E-14
R95 ( net307 net201)  R=3.3E6
T96 ( net201 net189 vdd! vdd!)  pfet  L=3.31E-6 W=8.72E-6
T97 ( net118 net189 vdd! vdd!)  pfet  L=3.31E-6 W=8.72E-6
T98 ( net147 net201 net118 vdd!)  pfet  L=3.31E-6 W=8.72E-6
C99 (net46 net10) C=2.4E-12
R100 ( net95 net252)  R=8.1E6
T101 ( net252 net252 net100 vdd!)  pfet  L=8.69E-6 W=6.77E-6
T102 ( net100 net123 vdd! vdd!)  pfet  L=8.69E-6 W=6.77E-6
T103 ( net123 net123 vdd! vdd!)  pfet  L=8.69E-6 W=6.77E-6
T104 ( net246 net252 net123 vdd!)  pfet  L=8.69E-6 W=6.77E-6
T105 (net211 vdd! vdd! 0) pfet L=2.57E-6 W=9.30E-6
T106 (net196 net231 net231 0) nfet L=8.45E-6 W=1.11E-6
R107 ( 0 net236)  R=6.9E1
T108 ( net236 net134 vdd! vdd!)  pfet  L=5.31E-6 W=8.33E-6
T109 ( net144 net134 vdd! vdd!)  pfet  L=5.31E-6 W=8.33E-6
T110 ( 0 net236 net144 vdd!)  pfet  L=5.31E-6 W=8.33E-6
R111 (net18 net32) R=2.0E6
R112 ( vdd! net54)  R=7.9E3
T113 ( net54 net54 vdd! vdd!)  pfet  L=7.81E-6 W=8.46E-6
T114 ( net62 net54 vdd! vdd!)  pfet  L=7.81E-6 W=8.46E-6
T115 (net41 net50 net50 0) nfet L=0.19E-6 W=2.40E-6
T116 (net267 net273 net273 0) nfet L=3.93E-6 W=2.80E-6
T117 (net216 net244 net244 0) nfet L=0.69E-6 W=3.13E-6
T118 (net147 net247 net247 0) nfet L=8.65E-6 W=2.46E-6
T119 (0 net268 net268 0) nfet L=0.24E-6 W=0.39E-6
C120 (net145 net148) C=6.2E-5
R121 (net243 net270) R=0.5E6
T122 (vdd! 0 0 0) nfet L=7.14E-6 W=6.90E-6
R123 ( net79 net75)  R=3.6E3
T124 ( net75 net75 net282 vdd!)  pfet  L=1.94E-6 W=0.64E-6
T125 ( net282 net180 vdd! vdd!)  pfet  L=1.94E-6 W=0.64E-6
T126 ( net180 net180 vdd! vdd!)  pfet  L=1.94E-6 W=0.64E-6
T127 ( net151 net75 net180 vdd!)  pfet  L=1.94E-6 W=0.64E-6
R128 (net91 net23) R=6.7E3
R129 ( net257 net197)  R=8.8E4
T130 ( net197 net259 vdd! vdd!)  pfet  L=9.65E-6 W=2.10E-6
T131 ( net301 net259 vdd! vdd!)  pfet  L=9.65E-6 W=2.10E-6
T132 ( net181 net197 net301 vdd!)  pfet  L=9.65E-6 W=2.10E-6
C133 (net212 net153) C=6.2E-9
R134 (net320 net62) R=7.9E6
R135 ( 0 net244)  R=2.9E2
T136 ( net244 net173 vdd! vdd!)  pfet  L=6.22E-6 W=5.89E-6
T137 ( net219 net173 vdd! vdd!)  pfet  L=6.22E-6 W=5.89E-6
T138 ( net241 net244 net219 vdd!)  pfet  L=6.22E-6 W=5.89E-6
R139 (net166 net31) R=4.9E0
T140 (net115 net46 net46 0) pfet L=5.68E-6 W=0.23E-6
R141 (net26 net191) R=4.2E0
C142 (net249 net206) C=9.6E-11
R143 ( net260 net258)  R=8.7E6
T144 ( net258 net258 0 0)  nfet  L=4.04E-6 W=0.42E-6
T145 ( net300 net258 0 0)  nfet  L=4.04E-6 W=0.42E-6
R146 (net280 net206) R=1.4E2
C147 (net264 0) C=3.3E-14
T148 (net291 net255 net255 0) pfet L=4.79E-6 W=0.96E-6
R149 ( net204 net60)  R=2.3E2
T150 ( net60 net60 net192 0)  nfet  L=5.73E-6 W=4.70E-6
T151 ( net192 net318 0 0)  nfet  L=5.73E-6 W=4.70E-6
T152 ( net318 net318 0 0)  nfet  L=5.73E-6 W=4.70E-6
T153 ( net298 net60 net318 0)  nfet  L=5.73E-6 W=4.70E-6
T154 (0 net191 net191 0) pfet L=0.98E-6 W=2.97E-6
C155 (net316 net226) C=8.9E-10
R156 ( net42 net64)  R=9.8E2
T157 ( net64 net332 0 0)  nfet  L=2.17E-6 W=3.57E-6
T158 ( net113 net332 0 0)  nfet  L=2.17E-6 W=3.57E-6
T159 ( vdd! net64 net332 0)  nfet  L=2.17E-6 W=3.57E-6
R160 (net20 0) R=2.8E5
T161 (net327 net35 net35 0) nfet L=5.82E-6 W=1.56E-6
R162 ( net35 net191)  R=2.2E2
T163 ( net191 net191 net287 0)  nfet  L=7.66E-6 W=6.63E-6
T164 ( net287 net215 0 0)  nfet  L=7.66E-6 W=6.63E-6
T165 ( net215 net215 0 0)  nfet  L=7.66E-6 W=6.63E-6
T166 ( net29 net191 net215 0)  nfet  L=7.66E-6 W=6.63E-6
T167 (net284 vdd! vdd! 0) pfet L=9.68E-6 W=3.66E-6
R168 ( net113 net250)  R=8.0E2
T169 ( net250 net188 vdd! vdd!)  pfet  L=0.94E-6 W=8.73E-6
T170 ( net263 net188 vdd! vdd!)  pfet  L=0.94E-6 W=8.73E-6
T171 ( net246 net250 net263 vdd!)  pfet  L=0.94E-6 W=8.73E-6
C172 (net221 0) C=4.2E-9
T173 (net132 net147 net147 0) pfet L=1.29E-6 W=5.87E-6
R174 ( 0 net208)  R=3.3E6
T175 ( net208 net73 0 0)  nfet  L=2.20E-6 W=3.62E-6
T176 ( net304 net73 0 0)  nfet  L=2.20E-6 W=3.62E-6
T177 ( net311 net208 net304 0)  nfet  L=2.20E-6 W=3.62E-6
T178 (net143 net234 net234 0) nfet L=3.81E-6 W=1.34E-6
R179 ( net327 net278)  R=8.3E1
T180 ( net278 net94 0 0)  nfet  L=0.54E-6 W=1.59E-6
T181 ( net83 net94 0 0)  nfet  L=0.54E-6 W=1.59E-6
T182 ( vdd! net278 net94 0)  nfet  L=0.54E-6 W=1.59E-6
T183 (net286 net308 net308 0) nfet L=5.39E-6 W=5.42E-6
T184 (net199 net96 net96 0) pfet L=3.89E-6 W=7.87E-6
R185 (net142 net234) R=6.9E1
R186 ( net137 net106)  R=2.0E3
T187 ( net106 net39 0 0)  nfet  L=9.65E-6 W=8.16E-6
T188 ( net309 net39 0 0)  nfet  L=9.65E-6 W=8.16E-6
T189 ( net34 net106 net309 0)  nfet  L=9.65E-6 W=8.16E-6
T190 (net312 net328 net328 0) nfet L=8.65E-6 W=0.43E-6
T191 (net88 net143 net143 0) nfet L=8.80E-6 W=3.11E-6
R192 ( net50 net114)  R=5.6E1
T193 ( net114 net114 vdd! vdd!)  pfet  L=9.84E-6 W=0.77E-6
T194 ( net101 net114 vdd! vdd!)  pfet  L=9.84E-6 W=0.77E-6
T195 (net230 0 0 0) pfet L=9.99E-6 W=3.66E-6
R196 ( net152 net61)  R=6.9E2
T197 ( net61 net264 0 0)  nfet  L=0.17E-6 W=0.80E-6
T198 ( net275 net264 0 0)  nfet  L=0.17E-6 W=0.80E-6
T199 ( net68 net61 net275 0)  nfet  L=0.17E-6 W=0.80E-6
C200 (net177 net70) C=7.9E-12
R201 ( net262 net81)  R=8.7E6
T202 ( net81 net143 0 0)  nfet  L=6.84E-6 W=5.33E-6
T203 ( net69 net143 0 0)  nfet  L=6.84E-6 W=5.33E-6
T204 ( vdd! net81 net143 0)  nfet  L=6.84E-6 W=5.33E-6
R205 (net141 net115) R=2.7E1
T206 (net290 net248 net248 0) pfet L=2.03E-6 W=0.45E-6
R207 ( vdd! net279)  R=8.0E5
T208 ( net279 net5 0 0)  nfet  L=0.80E-6 W=7.50E-6
T209 ( net99 net5 0 0)  nfet  L=0.80E-6 W=7.50E-6
T210 ( vdd! net279 net5 0)  nfet  L=0.80E-6 W=7.50E-6
C211 (net107 net62) C=6.0E-7
T212 ( net312 net312 vdd! vdd!)  pfet  L=8.09E-6 W=7.39E-6
T213 ( net184 net312 vdd! vdd!)  pfet  L=8.09E-6 W=7.39E-6
R214 ( net184 net30)  R=7.1E1
C215 (net153 net246) C=6.6E-9
R216 (net288 net307) R=2.6E5
T217 ( net87 net87 vdd! vdd!)  pfet  L=8.53E-6 W=8.06E-6
T218 ( net216 net87 vdd! vdd!)  pfet  L=8.53E-6 W=8.06E-6
R219 ( net216 net12)  R=8.2E1
T220 (net162 net108 net108 0) pfet L=3.48E-6 W=9.53E-6
R221 ( net214 net150)  R=8.0E3
T222 ( net150 net150 net235 vdd!)  pfet  L=5.60E-6 W=7.88E-6
T223 ( net235 net268 vdd! vdd!)  pfet  L=5.60E-6 W=7.88E-6
T224 ( net268 net268 vdd! vdd!)  pfet  L=5.60E-6 W=7.88E-6
T225 ( net47 net150 net268 vdd!)  pfet  L=5.60E-6 W=7.88E-6
T226 (net333 net175 net175 0) pfet L=9.26E-6 W=6.71E-6

