R1 ( net252 net140)  R=5.0E6
T2 ( net140 net4 0 0)  nfet  L=0.82E-6 W=5.49E-6
T3 ( net48 net4 0 0)  nfet  L=0.82E-6 W=5.49E-6
T4 ( vdd! net140 net4 0)  nfet  L=0.82E-6 W=5.49E-6
R5 (net252 net67) R=9.9E0
T6 (net6 net91 net91 0) pfet L=6.23E-6 W=4.51E-6
T7 (net27 net43 net43 0) nfet L=9.73E-6 W=5.70E-6
R8 (net31 net99) R=8.6E0
R9 ( net32 net9)  R=1.5E2
T10 ( net9 net190 vdd! vdd!)  pfet  L=9.96E-6 W=5.94E-6
T11 ( net8 net190 vdd! vdd!)  pfet  L=9.96E-6 W=5.94E-6
T12 ( 0 net9 net190 vdd!)  pfet  L=9.96E-6 W=5.94E-6
R13 (net215 net62) R=4.6E5
T14 (net100 net123 net123 0) nfet L=8.43E-6 W=8.05E-6
T15 (net117 net253 net253 0) pfet L=8.86E-6 W=2.46E-6
R16 ( net10 net210)  R=5.6E6
T17 ( net210 net210 vdd! vdd!)  pfet  L=3.00E-6 W=6.99E-6
T18 ( 0 net210 vdd! vdd!)  pfet  L=3.00E-6 W=6.99E-6
R19 (net178 net79) R=9.1E6
R20 ( net242 net184)  R=1.9E3
T21 ( net184 net26 0 0)  nfet  L=4.99E-6 W=3.33E-6
T22 ( net142 net26 0 0)  nfet  L=4.99E-6 W=3.33E-6
T23 ( vdd! net184 net26 0)  nfet  L=4.99E-6 W=3.33E-6
T24 (net122 net105 net105 0) nfet L=1.64E-6 W=4.01E-6
T25 ( net69 net69 vdd! vdd!)  pfet  L=5.88E-6 W=9.89E-6
T26 ( net117 net69 vdd! vdd!)  pfet  L=5.88E-6 W=9.89E-6
R27 ( net117 0)  R=9.7E6
C28 (net241 net228) C=6.8E-10
C29 (net57 net99) C=2.6E-13
R30 ( net38 net221)  R=5.7E0
T31 ( net221 net221 0 0)  nfet  L=8.81E-6 W=7.56E-6
T32 ( net132 net221 0 0)  nfet  L=8.81E-6 W=7.56E-6
C33 (net88 net23) C=6.3E-14
R34 (net11 net258) R=8.0E6
R35 ( net48 net64)  R=5.4E1
T36 ( net64 net219 vdd! vdd!)  pfet  L=4.36E-6 W=9.09E-6
T37 ( net257 net219 vdd! vdd!)  pfet  L=4.36E-6 W=9.09E-6
T38 ( 0 net64 net219 vdd!)  pfet  L=4.36E-6 W=9.09E-6
T39 (net77 net257 net257 0) nfet L=3.97E-6 W=5.39E-6
T40 (net192 net105 net105 0) nfet L=6.09E-6 W=5.93E-6
C41 (net183 net36) C=0.4E-5
T42 (net172 net87 net87 0) nfet L=5.66E-6 W=3.76E-6
C43 (net41 net93) C=9.5E-9
R44 ( net48 net201)  R=7.8E2
T45 ( net201 net160 0 0)  nfet  L=2.48E-6 W=3.51E-6
T46 ( net28 net160 0 0)  nfet  L=2.48E-6 W=3.51E-6
T47 ( vdd! net201 net160 0)  nfet  L=2.48E-6 W=3.51E-6
T48 (net63 net237 net237 0) pfet L=1.11E-6 W=4.08E-6

